### PR TITLE
[Merged by Bors] - feat: define nonunital power-associativity

### PR DESCRIPTION
**Pull request by ScottCarnahan**
introduce `Prop`-valued mixin `PNatPowAssoc` and show that power-associativity holds for semigroups.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/PowAssoc.lean [hunk 1]
```diff
@@ -0,0 +1,120 @@
...
+  rw [ppowRec_succ, mul_assoc, ← hk, ← ppowRec_succ, add_right_comm]
+
+instance (M: Type u) [Semigroup M] : PNatPowAssoc M :=
+  {
+    ppow_add := by
+      intro k n x
+      exact semigroup_ppow_add x k n
+    ppow_one := by
+      exact ppowRec_one
+  }
```
Comment (alexjbest) [inline Mathlib/Algebra/Group/PowAssoc.lean:118]:
```suggestion
instance (M : Type u) [Semigroup M] : PNatPowAssoc M where
    ppow_add k n x := semigroup_ppow_add x k n
    ppow_one := ppowRec_one
```
or something like this should be possible

**Comment by alexjbest** [comment]
Can we add a `ppow_eq_pow` in the monoid case in this PR also? That seems quite important

File: Mathlib/Algebra/Group/PowAssoc.lean [hunk 2]
```diff
@@ -0,0 +1,120 @@
...
+class PNatPowAssoc (M : Type u) [Mul M] [Pow M ℕ+] : Prop where
+  /-- Multiplication is power-associative. -/
+  protected ppow_add : ∀ (k n : ℕ+) (x : M), x ^ (k + n) = x ^ k * x ^ n
+  /-- Exponent one is identity. -/
+  protected ppow_one : ∀ (x : M), x ^ (1 : ℕ+) = x
+
+theorem ppow_add [PNatPowAssoc M] (k n : ℕ+) (x : M) : x ^ (k + n) = x ^ k * x ^ n :=
+  PNatPowAssoc.ppow_add k n x
+
+theorem ppow_one [PNatPowAssoc M] (x : M) : x ^ (1 : ℕ+) = x :=
```
Comment (alexjbest) [inline Mathlib/Algebra/Group/PowAssoc.lean:58]: I know you said simp tags are TODO but really this should always be simp no matter what design decisions you make about the rest!

File: Mathlib/Algebra/Group/PowAssoc.lean [hunk 3]
```diff
@@ -0,0 +1,120 @@
...
+variable [Semigroup M]
+
+instance (M: Type u) [Semigroup M] : Pow M ℕ+ :=
+  {
+    pow := fun x n => ppowRec n x
+  }
+
+theorem ppow_eq_ppowRec (x : M) (n : ℕ+) : x ^ n = ppowRec n x := rfl
+
+theorem semigroup_ppow_add (x : M) (k n : ℕ+) : x ^ (k + n) = x ^ k * x ^ n := by
```
Comment (alexjbest) [inline Mathlib/Algebra/Group/PowAssoc.lean:104]: not sure about the name of this one, maybe it should be protected in the Semigroup namespace or private or something

File: Mathlib/Algebra/Group/PowAssoc.lean (hunk 2 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Group/PowAssoc.lean:59]: Thank you, I should have paid more attention to what lemmas get tags.

File: Mathlib/Algebra/Group/PowAssoc.lean (hunk 3 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Group/PowAssoc.lean]: That is a good idea.  I have added a namespace.

File: Mathlib/Algebra/Group/PowAssoc.lean (hunk 1 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Group/PowAssoc.lean]: Thanks, I turned the proof into a fun.

**Comment by ScottCarnahan** [comment]
> Can we add a `ppow_eq_pow` in the monoid case in this PR also? That seems quite important

Yes, I added it at the end.

File: Mathlib/Algebra/Group/PowAssoc.lean [hunk 4]
```diff
@@ -0,0 +1,130 @@
...
+## Instances
+
+- `Pow M ℕ+` for semigroups `M`.
+- `PNatPowAssoc` for semigroups.
+
+## Todo
+
+* `NatPowAssoc` for `MulOneClass` - more or less the same flow
+* It seems unlikely that anyone will want `NatSMulAssoc` and `PNatSmulAssoc` as additive versions of
+power-associativity, but we have found that it is not hard to write.
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/PowAssoc.lean:36]:
```suggestion
  power-associativity, but we have found that it is not hard to write.
```

File: Mathlib/Algebra/Group/PowAssoc.lean [hunk 5]
```diff
@@ -0,0 +1,130 @@
...
+section Semigroup
+
+variable [Semigroup M]
+
+namespace Semigroup
+
+instance (M: Type u) [Semigroup M] : Pow M ℕ+ :=
+  {
+    pow := fun x n => ppowRec n x
+  }
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/PowAssoc.lean:104]: Unfortunately this instance is bad, it creates an instance diamond (with `import Mathlib.Algebra.Group.Pi`):

```lean
example {ι : Type*} (M : ι → Type*) [Π i, Semigroup (M i)] :
  (instPowPNat _ : Pow (Π i, M i) ℕ+) = Pi.instPow := rfl
```

The two ways to fix this are either:
* Don't make this an `instance`
* Add a `pnpow` field to `Semigroup`

Comment (ScottCarnahan) [reply Mathlib/Algebra/Group/PowAssoc.lean:104]: Ah, I think I see why monoids are defined the way they are.  I will try to change the definition of semigroup.

Comment (eric-wieser) [reply Mathlib/Algebra/Group/PowAssoc.lean:104]: https://arxiv.org/abs/2108.10700 has a short section (section 5) on pretty much that reason (substituting `npow` for `nsmul`), in case you're interested.

File: Mathlib/Algebra/Group/PowAssoc.lean
Comment (YaelDillies) [inline Mathlib/Algebra/Group/PowAssoc.lean:1]: `PowAssoc` is not a great name for this file since it doesn't make clear that this is about `PNat` powers (or semigroup powers, or I don't know). Can you come up with something clearer?

**Review by YaelDillies — COMMENTED** [review]
I believe this is now mergeable. @eric-wieser, do you agree?

File: Mathlib/Algebra/Group/PNatPowAssoc.lean [hunk 6]
```diff
@@ -0,0 +1,82 @@
...
+
+@[simp]
+theorem ppow_one [PNatPowAssoc M] (x : M) : x ^ (1 : ℕ+) = x :=
+  PNatPowAssoc.ppow_one x
+
+theorem ppow_assoc [PNatPowAssoc M] (k m n : ℕ+) (x : M) :
+    x ^ k * (x ^ m * x ^ n) = (x ^ k * x ^ m) * x ^ n := by
+  simp only [← ppow_add, add_assoc]
+
+theorem ppow_comm [PNatPowAssoc M] (m n : ℕ+) (x : M) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/PNatPowAssoc.lean:66]:
```suggestion
theorem ppow_mul_comm [PNatPowAssoc M] (m n : ℕ+) (x : M) :
```
to match `pow_mul_comm`

File: Mathlib/Algebra/Group/PNatPowAssoc.lean [hunk 7]
```diff
@@ -0,0 +1,82 @@
...
+
+theorem ppow_add [PNatPowAssoc M] (k n : ℕ+) (x : M) : x ^ (k + n) = x ^ k * x ^ n :=
+  PNatPowAssoc.ppow_add k n x
+
+@[simp]
+theorem ppow_one [PNatPowAssoc M] (x : M) : x ^ (1 : ℕ+) = x :=
+  PNatPowAssoc.ppow_one x
+
+theorem ppow_assoc [PNatPowAssoc M] (k m n : ℕ+) (x : M) :
+    x ^ k * (x ^ m * x ^ n) = (x ^ k * x ^ m) * x ^ n := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/PNatPowAssoc.lean:63]: This is backwards WRT `mul_assoc`:
```suggestion
theorem ppow_mul_assoc [PNatPowAssoc M] (k m n : ℕ+) (x : M) :
    (x ^ k * x ^ m) * x ^ n = x ^ k * (x ^ m * x ^ n) := by
```

File: Mathlib/Algebra/Group/PNatPowAssoc.lean [hunk 8]
```diff
@@ -0,0 +1,82 @@
...
+section PNatPowAssoc
+
+variable [Mul M] [Pow M ℕ+]
+
+/-- A `Prop`-valued mixin for power-associative multiplication in the non-unital setting. -/
+class PNatPowAssoc (M : Type u) [Mul M] [Pow M ℕ+] : Prop where
+  /-- Multiplication is power-associative. -/
+  protected ppow_add : ∀ (k n : ℕ+) (x : M), x ^ (k + n) = x ^ k * x ^ n
+  /-- Exponent one is identity. -/
+  protected ppow_one : ∀ (x : M), x ^ (1 : ℕ+) = x
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/PNatPowAssoc.lean:53]: Can you add the trivial instances for `Prod` and `Pi`?

File: Mathlib/Algebra/Group/PNatPowAssoc.lean [hunk 9]
```diff
@@ -0,0 +1,82 @@
...
+- `ppow_one` a defining property: `x ^ 1 = x`
+- `ppow_assoc` strictly positive powers of an element have associative multiplication.
+- `ppow_comm` `x ^ m * x ^ n = x ^ n * x ^ m` for strictly positive `m` and `n`.
+- `ppow_mul` `x ^ (m * n) = (x ^ m) ^ n` for strictly positive `m` and `n`.
+- `ppow_eq_pow` monoid exponentiation coincides with semigroup exponentiation.
+
+## Instances
+
+- `Pow M ℕ+` for semigroups `M`.
+- `PNatPowAssoc` for semigroups.
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/PNatPowAssoc.lean:30]: This is now innaccurate, right?

Comment (ScottCarnahan) [reply Mathlib/Algebra/Group/PNatPowAssoc.lean]: Thank you, I have removed it.

File: Mathlib/Algebra/Group/PNatPowAssoc.lean (hunk 8 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Group/PNatPowAssoc.lean]: Done!

File: Mathlib/Algebra/Group/PowAssoc.lean
Comment (ScottCarnahan) [reply Mathlib/Algebra/Group/PowAssoc.lean:1]: I hope the new name is okay.

File: Mathlib/Algebra/Group/PNatPowAssoc.lean (hunk 6 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Group/PNatPowAssoc.lean]: Done!

File: Mathlib/Algebra/Group/PNatPowAssoc.lean (hunk 7 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Group/PNatPowAssoc.lean]: Thank you.  That is a good catch.

File: Mathlib/Algebra/Group/PNatPowAssoc.lean [hunk 10]
```diff
@@ -59,11 +58,39 @@ theorem ppow_add [PNatPowAssoc M] (k n : ℕ+) (x : M) : x ^ (k + n) = x ^ k * x
 theorem ppow_one [PNatPowAssoc M] (x : M) : x ^ (1 : ℕ+) = x :=
   PNatPowAssoc.ppow_one x
 
-theorem ppow_assoc [PNatPowAssoc M] (k m n : ℕ+) (x : M) :
-    x ^ k * (x ^ m * x ^ n) = (x ^ k * x ^ m) * x ^ n := by
+instance Pi_PNatPowAssoc {I : Type*} {f : I → Type*} [∀ i, Mul <| f i] [∀ i, Pow (f i) ℕ+]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/PNatPowAssoc.lean:61]:
```suggestion
instance Pi.instPNatPowAssoc {I : Type*} {f : I → Type*} [∀ i, Mul <| f i] [∀ i, Pow (f i) ℕ+]
```

File: Mathlib/Algebra/Group/PNatPowAssoc.lean [hunk 11]
```diff
@@ -0,0 +1,109 @@
...
+  {
+    ppow_add := by
+      intros
+      ext
+      simp only [Pi.pow_apply, Pi.mul_apply, ppow_add]
+    ppow_one := by
+      intros
+      ext
+      simp only [Pi.pow_apply, ppow_one]
+  }
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/PNatPowAssoc.lean:72]:
```suggestion
    [∀ i, PNatPowAssoc <| f i] : PNatPowAssoc (∀ i, f i) where
  ppow_add _ _ _ := by ext; simp [ppow_add]
  ppow_one _ := by ext; simp
```

File: Mathlib/Algebra/Group/PNatPowAssoc.lean [hunk 12]
```diff
@@ -0,0 +1,109 @@
...
+
+theorem ppow_add [PNatPowAssoc M] (k n : ℕ+) (x : M) : x ^ (k + n) = x ^ k * x ^ n :=
+  PNatPowAssoc.ppow_add k n x
+
+@[simp]
+theorem ppow_one [PNatPowAssoc M] (x : M) : x ^ (1 : ℕ+) = x :=
+  PNatPowAssoc.ppow_one x
+
+instance Pi.instPNatPowAssoc {I : Type*} {f : I → Type*} [∀ i, Mul <| f i] [∀ i, Pow (f i) ℕ+]
+    [∀ i, PNatPowAssoc <| f i] : PNatPowAssoc (∀ i : I, f i) :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/PNatPowAssoc.lean:62]: Just so you know, it's more usual to denote the index type by `ι`.

File: Mathlib/Algebra/Group/PNatPowAssoc.lean [hunk 13]
```diff
@@ -0,0 +1,109 @@
...
+      intros
+      ext
+      simp only [Prod.pow_fst, Prod.fst_mul, ppow_add]
+      simp only [Prod.pow_snd, Prod.snd_mul, ppow_add]
+    ppow_one := by
+      intros
+      ext
+      simp only [Prod.pow_fst, ppow_one]
+      simp only [Prod.pow_snd, ppow_one]
+  }
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/PNatPowAssoc.lean:87]:
```suggestion
    PNatPowAssoc (M × N) where
  ppow_add _ _ _ := by ext <;> simp [ppow_add]
  ppow_one _ := by ext <;> simp
```

File: Mathlib/Algebra/Group/PNatPowAssoc.lean (hunk 12 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Group/PNatPowAssoc.lean:62]: Thank you.  I just copied from Mathlib.Algebra.Group.Pi

File: Mathlib/Algebra/Group/PNatPowAssoc.lean (hunk 11 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Group/PNatPowAssoc.lean]: Thank you.  That looks much nicer.

File: Mathlib/Algebra/Group/PNatPowAssoc.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/PNatPowAssoc.lean]: Yeah, this is a very old file with strange conventions.

File: Mathlib/Algebra/Group/PNatPowAssoc.lean [hunk 14]
```diff
@@ -0,0 +1,91 @@
...
+  ppow_one _ := by ext <;> simp
+
+theorem ppow_mul_assoc [PNatPowAssoc M] (k m n : ℕ+) (x : M) :
+    (x ^ k * x ^ m) * x ^ n = x ^ k * (x ^ m * x ^ n) := by
+  simp only [← ppow_add, add_assoc]
+
+theorem ppow_mul_comm [PNatPowAssoc M] (m n : ℕ+) (x : M) :
+    x ^ m * x ^ n = x ^ n * x ^ m := by simp only [← ppow_add, add_comm]
+
+theorem ppow_mul [PNatPowAssoc M] (x : M) (m n : ℕ+) : x ^ (m * n) = (x ^ m) ^ n := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/PNatPowAssoc.lean:78]: Can we also have
```
theorem ppow_mul' [PNatPowAssoc M] (x : M) (m n : ℕ+) : x ^ (m * n) = (x ^ n) ^ m
```

File: Mathlib/Algebra/Group/PNatPowAssoc.lean [hunk 15]
```diff
@@ -0,0 +1,91 @@
...
+
+instance Pi.instPNatPowAssoc {I : Type*} {f : I → Type*} [∀ i, Mul <| f i] [∀ i, Pow (f i) ℕ+]
+    [∀ i, PNatPowAssoc <| f i] : PNatPowAssoc (∀ i, f i) where
+    ppow_add _ _ _ := by ext; simp [ppow_add]
+    ppow_one _ := by ext; simp
+
+instance {N : Type*} [Mul M] [Pow M ℕ+] [PNatPowAssoc M] [Mul N] [Pow N ℕ+] [PNatPowAssoc N] :
+    PNatPowAssoc (M × N) where
+  ppow_add _ _ _ := by ext <;> simp [ppow_add]
+  ppow_one _ := by ext <;> simp
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/PNatPowAssoc.lean:69]: Can you move these to outside the section or at least to the end of it?

File: Mathlib/Algebra/Group/PNatPowAssoc.lean [hunk 16]
```diff
@@ -0,0 +1,91 @@
...
+* It seems unlikely that anyone will want `NatSMulAssoc` and `PNatSmulAssoc` as additive versions of
+  power-associativity, but we have found that it is not hard to write.
+
+-/
+
+variable {M : Type*}
+
+section PNatPowAssoc
+
+variable [Mul M] [Pow M ℕ+]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/PNatPowAssoc.lean:45]:
```suggestion
section Mul
variable [Mul M] [Pow M ℕ+] [PNatPowAssoc M]
```
to make clear that your last lemma can't be in this section

File: Mathlib/Algebra/Group/PNatPowAssoc.lean [hunk 17]
```diff
@@ -0,0 +1,95 @@
...
+    (x ^ k * x ^ m) * x ^ n = x ^ k * (x ^ m * x ^ n) := by
+  simp only [← ppow_add, add_assoc]
+
+theorem ppow_mul_comm (m n : ℕ+) (x : M) :
+    x ^ m * x ^ n = x ^ n * x ^ m := by simp only [← ppow_add, add_comm]
+
+theorem ppow_mul (x : M) (m n : ℕ+) : x ^ (m * n) = (x ^ m) ^ n := by
+  refine PNat.recOn n ?_ ?_
+  rw [ppow_one, mul_one]
+  intro k hk
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/PNatPowAssoc.lean:71]: For your information, this can be combined as
```suggestion
  refine PNat.recOn n ?_ fun k hk ↦ ?_
  rw [ppow_one, mul_one]
```

File: Mathlib/Algebra/Group/PNatPowAssoc.lean [hunk 18]
```diff
@@ -0,0 +1,95 @@
...
+
+end Mul
+
+instance Pi.instPNatPowAssoc {ι : Type*} {α : ι → Type*} [∀ i, Mul <| α i] [∀ i, Pow (α i) ℕ+]
+    [∀ i, PNatPowAssoc <| α i] : PNatPowAssoc (∀ i, α i) where
+    ppow_add _ _ _ := by ext; simp [ppow_add]
+    ppow_one _ := by ext; simp
+
+instance {N : Type*} [Mul M] [Pow M ℕ+] [PNatPowAssoc M] [Mul N] [Pow N ℕ+] [PNatPowAssoc N] :
+    PNatPowAssoc (M × N) where
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/PNatPowAssoc.lean:86]:
```suggestion
instance Prod.instPNatPowAssoc {N : Type*} [Mul M] [Pow M ℕ+] [PNatPowAssoc M] [Mul N] [Pow N ℕ+]
     [PNatPowAssoc N] : PNatPowAssoc (M × N) where
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
